US05698567
12.5 g (0.058 mol) of 2-chioromethylquinoline hydrochloride, 9.8 g of 3-hydroxyphenylethanol, 8 g of potassium carbonate, 8 g of sodium hydroxide, 150 ml of methylene chloride and 5 g of Adogene 624 are introduced into a flask. Stirring is carded out at room temperature for 16 hours. The mixture is washed with water, dried over sodium sulphate and concentrated to dryness. The residue is chromatographed on 1.5 litres of silica using a methylene chloride/methanol mixture (98/2) as eluant. There are obtained 8.6 g of 2-[3-(quinol-2-ylmethoxy)-phenyl]ethanol. Yield: 53%.

reactant | 2-chioromethylquinoline hydrochloride | 0.058 mol, 12.5 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | 3-hydroxyphenylethanol | 9.8 g | OC=1C=C(C=CC1)C(C)O | C8H10O2
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(quinol-2-ylmethoxy)-phenyl]ethanol | 8.6 g, Yield: 53% | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)CCO | C18H17NO2
